US05616610
b) (R)-3-(N-Cyclopentyl-N-n-propylamino)-8-fluoro-5-methoxy-3,4-dihydro-2H-1-benzopyran
To the solution of (R)-3-(N-cyclopentylamino)-8-fluoro-5-methoxy-3,4-dihydro-2H-1-benzopyran in methanol (25mL) were propanal (2 g, 36 mmol) and NaCNBH3 (2 g, 40 mmol) added. The solution was stirred overnight to give the desired compound in a 97% yield according to GC. The solvent was removed in vacuo and the residue was worked up by extraction to give 3.7 g of the title compound as a colorless oil. GC/MS (70 eV) M=307 (40% ).

reactant | (R)-3-(N-cyclopentylamino)-8-fluoro-5-methoxy-3,4-dihydro-2H-1-benzopyran | C1(CCCC1)N[C@H]1COC2=C(C1)C(=CC=C2F)OC | C15H20FNO2
reactant | propanal | 36 mmol, 2 g | C(CC)=O | C3H6O
reactant | NaCNBH3 | 40 mmol, 2 g | [BH3-]C#N.[Na+]
solvent | methanol | 25mL | CO | CH4O
product | (R)-3-(N-Cyclopentyl-N-n-propylamino)-8-fluoro-5-methoxy-3,4-dihydro-2H-1-benzopyran | 97% yield | C1(CCCC1)N(CCC)[C@H]1COC2=C(C1)C(=CC=C2F)OC | C18H26FNO2
